Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transamintis

 
Major Surgical or Invasive Procedure:
Percutaneous liver biopsy ___
ERCP ___

 
History of Present Illness:
___ with a PMHx of HCV Genotype3 cirrhosis s/p OLT in ___ 
on both tacrolimus/everolimus c/b biliary stricutre s/p 
stenting, prior episode of mild cellular rejection, s/p 24wks 
sofosbuvir/ribavirin with sustained virologic response who now 
presents with increasing transaminitis.

In early ___ had episode of acute cellular rejection portal 
endothelialitis and lymphocytic cholangitis. Staining for CMV at 
the time was negative. At the time, pt was on cyclosporine. On 
that admission, cyclosporine and everolimus levels were both 
subtherapeutic. Medications were adjusted and at discharge he 
was switched to the tacro/everolimus combination. For acute 
rejection, he was treated with 5 days of 500mg solumedrol 
followed by 20mg prednisone with a taper over the course of 
several weeks. CMV status is Donor (+), Recipient (-). 

Of note has an anastomotic biliary stricture for which he was 
due for repeat ERCP in ___.

Was doing well at home. Labs drawn at ___ on ___ showed 
elevation in all LFTs: T. bili 1.2 (0.4, 0.5), Alk Phos 107 (60, 
66), AST 187 (21, 18), ALT 422 (36, 39). 

Everolimus level was 11.9 and tacro was 7.8. 
HCV VL negative. 

 
Past Medical History:
- HCV/EtOH cirrhosis s/p OLT in ___, c/b biliary stricture 
s/p stenting
- HCV genotype ___ s/p ___ weeks of sofosbuvir and ribavirin 
leading up to his transplant; he has since been cured with 
negative viral load three months following his liver transplant
- Post-transplant CKD
- Headaches
- Moderate malnutrition 
- Heart murmur
- H/o leukopenia secondary to CellCept
- Inguinal hernia repairs in the 1970s.  
- Tonsillectomy in the 1970s.

 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
===================================
97.9 ___ 97RA 62.8kg
GEN: NAD, AOx3, no asterixis, no scleral icterus, no palmar 
erythema
CV: RRR, No MRG
RESP: CTABL
ABD: Transplant scar C/D/I, +BS, NT, ND
EXT: No swelling

DISCHARGE PHYSICAL EXAM
===================================
afebrile
GEN: NAD, AOx3, no asterixis
HEENT: no scleral icterus, MMM, EOMI, Facial movement symmetric
CV: RRR, No MRG
RESP: CTAB no W/R/R
ABD: Transplant scar well healed.   +BS, NT, ND
FLANK: dressing on biopsy sites, C/D/I
EXT: No swelling, no palmar erythema

 
Pertinent Results:
ADMISSION

___ 05:30PM BLOOD WBC-4.2 RBC-3.06* Hgb-10.5* Hct-27.7* 
MCV-91 MCH-34.4* MCHC-38.0* RDW-14.2 Plt ___
___ 05:30PM BLOOD Neuts-79.5* Lymphs-16.3* Monos-2.8 
Eos-1.2 Baso-0.2
___ 05:30PM BLOOD ___ PTT-27.8 ___
___ 05:30PM BLOOD Glucose-139* UreaN-24* Creat-1.4* Na-139 
K-4.6 Cl-105 HCO3-26 AnGap-13
___ 05:30PM BLOOD ALT-159* AST-26 AlkPhos-83 TotBili-0.4
___ 05:30PM BLOOD Albumin-4.1 Calcium-9.1 Phos-3.0 Mg-1.8

___ 04:56AM BLOOD tacroFK-9.5
EVEROLIMUS, BLOOD             13.5  

IMAGING
RUQ U/S ___
1.  Normal appearance of the transplanted liver. No intrahepatic 
biliary duct dilation or evidence of hepatic artery stenosis.  
Patent hepatic vasculature. 
2. Unchanged postoperative fluid collection, likely a seroma or 
hematoma, as described above. 

___ Liver Bx
Liver, allograft, needle core biopsy:
1) Focal mild portal inflammatory infiltrate comprised 
predominantly of lymphocytes with scattered
eosinophils and rare plasma cells with lymphocytic cholangitis 
and a focus suspicious for portal
endothelialitis (level 1A3).
2) Minimal steatosis present with focal balloon degeneration.
3) Trichrome stain shows no increase in fibrosis.
4) Iron stains shows mild iron deposition within Kupffer cells.

ERCP ___
The scout film revealed previous stent in place. 
After stent removal, the bile duct was deeply cannulated with 
the balloon. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
The native CBD was 11-12 mm in diameter. 
There were no filling defects. 
The transplanted biliary duct was 4 mm, suggestive of duct 
mismatch. 
The stricture had resolved. 
The left and right hepatic ducts and all intrahepatic branches 
were normal. 
An 8 mm balloon was swept along the main duct without 
difficulty. 
No stone or sludge was removed. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. 
Overall, successful ERCP with stent pull and cholangiogram 
showing resoluation of the stricture that is likely secondary to 
duct mismatch.

DISCHARGE
___ 04:10AM BLOOD WBC-4.6 RBC-3.24* Hgb-10.7* Hct-29.2* 
MCV-90 MCH-33.0* MCHC-36.6* RDW-14.3 Plt ___
___ 04:10AM BLOOD ___ PTT-38.0* ___
___ 04:10AM BLOOD Glucose-167* UreaN-21* Creat-1.5* Na-137 
K-4.0 Cl-104 HCO3-26 AnGap-11
___ 04:10AM BLOOD ALT-78* AST-27 AlkPhos-73 TotBili-0.2
___ 04:10AM BLOOD Albumin-3.7 Calcium-8.7 Phos-3.3 Mg-1.9
___ 04:10AM BLOOD tacroFK-8.9
___ 04:10AM BLOOD EVEROLIMUS, BLOOD-PND
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
___ with a PMHx of HCV Genotype3 cirrhosis s/p OLT in ___ 
on both tacrolimus/everolimus c/b biliary stricutre s/p 
stenting, prior episode of mild cellular rejection, s/p 24wks 
sofosbuvir/ribavirin with sustained virologic response who now 
presents with increasing transaminitis.

ACTIVE ISSUES
# HCV CIRRHOSIS s/p OLT ___: Transaminitis was concerning for 
rejection. CMV VL negative. On this admission, ERCP done with 
removal of prior anastamotic stent. Transjugular liver bx showed 
resolving acute rection. At d/c, pt is on Tacrolimus 5mg twice a 
day, Everolimus 5mg twice a day, Prednisone 10mg daily. 
Otherwise no changes to his medications.

# HEPATIC ARTERIAL STENOSIS: Seen on hepatic arteriorgram in 
___, consider possiblity of cause of transaminitis. RUQ 
without evidence of arterial stenosis at this time. ERCP removed 
stent, no stricture.

INACTIVE ISSUES
# HTN: Previously had metoprolol d/c'd on prior admission and is 
now on amlodipine monotherapy. 

# DEPRESSION: cont home sertraline

# Post-transplant CKD: Baseline Cr is 1.4-1.7, and was 1.3 at 
discharge.

# MALNUTRITION: Was maintained on Ensure on prior admission. 
- continue supplementation

# GERD: Inactive issue. 
- Continue home omeprazole

TRANSITIONAL ISSUES
f/u Everolimus level ___: Goal Level is ___
f/u outpatient lab studies (CBC, LFTs, Chem 10, Tacro, Evero) on 
___. Goal Tacro and Evero level is ___
f/u Final results of ___ percutaneous liver bx
Downtitration of prednisone based on final results of liver bx, 
at d/c pt will be going on 10mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 325 mg PO QPM 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Everolimus 6 mg PO BID 
5. FoLIC Acid 3 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Sertraline 200 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. ValGANCIclovir 450 mg PO Q24H 
12. Vitamin D ___ UNIT PO DAILY 
13. PredniSONE 5 mg PO DAILY 
14. Tacrolimus 5 mg PO Q12H 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 325 mg PO QPM 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Everolimus 5 mg PO BID 
5. FoLIC Acid 3 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. PredniSONE 10 mg PO DAILY 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0
9. Senna 8.6 mg PO BID:PRN constipation 
10. Sertraline 200 mg PO DAILY 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Tacrolimus 5 mg PO Q12H 
13. ValGANCIclovir 450 mg PO Q24H 
14. Vitamin D ___ UNIT PO DAILY 
15. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4 Disp #*6 Tablet 
Refills:*0
16. Outpatient Lab Work
Please have a CBC with diff, Chem 10, LFTs, everolimus and 
tacrolimus drawn twice a week on ___ and have the 
results faxed to ATTN ___. ___ at fax ___.

ICD-9: V42.7

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transamintis s/p OLT ___
Removal of biliary anastomatic stent

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank ___ for choosing us for your care. ___ were admitted for 
abnormally elevated liver function tests. Your blood tests here 
showed no CMV in your blood. A liver biopsy was done with 
preliminary results that are somewhat inconclusive. ___ also 
underwent a previously scheduled ERCP with removal of your 
stent. Subsequently, ___ felt well.

We have adjusted some of your medications on this admission. On 
discharge, please take:

Tacrolimus 5mg twice a day
Everolimus 5mg twice a day 
Prednisone 10mg daily until further instructions from Dr. ___

___ will need a 2 week followup with Dr. ___ 
appointment is scheduled below.

In addition to this, please have labs drawn twice a week until 
your appointment with Dr. ___. We have given ___ a script for 
blood draws on the following days: ___.
 
Followup Instructions:
___